US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole, 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole (200 mg, 0.57 mmol) was reacted with 2-bromo-3-methylpyridine (63 μL, 0.57 mmol) to afford the desired 2-[3-methoxy-4-(5-methylpyridin-2-yl)phenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.55–8.53 (d, 1H), 7.98–7.95 (m, 1H), 7.88 (s, 1H), 7.81–7.78 (m, 1H), 7.61–7.56 (m, 2H), 7.46–7.44 (d, 1H), 7.39–7.35 (m, 2H), 7.23–7.19 (m, 1H), 3.91 (s, 3H), 2.19 (s, 3H). MS (ESI) 317 (M+H)+.

reactant | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
reactant | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | 0.57 mmol, 200 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
reactant | 2-bromo-3-methylpyridine | 0.57 mmol, 63 μL | BrC1=NC=CC=C1C | C6H6BrN
product | 2-[3-methoxy-4-(5-methylpyridin-2-yl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1C1=NC=C(C=C1)C)C=1OC2=C(N1)C=CC=C2 | C20H16N2O2
